US06187802B1
A solution of 2-bromo-1-[1-(3,4-dichlorophenyl)cyclobutyl]ethanone (3.2 g) in acetone (25 ml) was added to a solution of 3,4,5,6-tetrahydropyrimidine-2-thiol (1.2 g) in acetone (150 mL), then the mixture was heated under reflux for 0.5 hour, and allowed to cool to ambient temperature. The resulting solid was collected by filtration and dried in vacuo at ambient temperature to give 1-[1-(3,4-dichlorophenyl)cyclobutyl]-2-(3,4,5,6-tetrahydropyrimidin-2-ylthio)ethanone hydrobromide as a white solid (3.9 g), m.p. 203-204° C.

reactant | 2-bromo-1-[1-(3,4-dichlorophenyl)cyclobutyl]ethanone | 3.2 g | BrCC(=O)C1(CCC1)C1=CC(=C(C=C1)Cl)Cl | C12H11BrCl2O
reactant | 3,4,5,6-tetrahydropyrimidine-2-thiol | 1.2 g | N1=C(NCCC1)S | C4H8N2S
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 1-[1-(3,4-dichlorophenyl)cyclobutyl]-2-(3,4,5,6-tetrahydropyrimidin-2-ylthio)ethanone hydrobromide | 3.9 g | Br.ClC=1C=C(C=CC1Cl)C1(CCC1)C(CSC1=NCCCN1)=O | InChI=1S/C16H18Cl2N2OS.BrH/c17-12-4-3-11(9-13(12)18)16(5-1-6-16)14(21)10-22-15-19-7-2-8-20-15;/h3-4,9H,1-2,5-8,10H2,(H,19,20);1H
